US08633173B2
2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ol was prepared from combining 2-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl}-benzonitrile (30.0 mg, 0.68 mmol) and 10% palladium on carbon (50% Wet) (5:45:50, palladium:carbon black:water, 30. mg, 0.14 mmol) in methanol (10.0 mL) and shaking under an atmosphere of Hydrogen (45 psi) for 3 hours. Product was isolated as a mustard colored solid (14.0 mg, 63%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 10.45 (bs, 1H), 9.12 (s, 1H), 8.21 (dd, J=6.4 Hz, 1.0 Hz, 1H), 7.53 (d, J=8.8 Hz, 2H), 6.88 (d, J=8.8 Hz, 2H), 6.80-6.76 (m, 2H), 3.04-3.02 (m, 4H), 2.47-2.44 (m, 4H), 2.22 (s, 3H). MS=325.2 (MH)+.

reactant | 2-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl}-benzonitrile | 0.68 mmol, 30.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)OCC2=C(C#N)C=CC=C2)=N1 | C25H25N7O
catalyst | palladium on carbon | 0.14 mmol | [Pd] | Pd
solvent | methanol | 10.0 mL | CO | CH4O
product | 2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ol | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)O)=N1 | C17H20N6O
